US05821261
EXAMPLE 4 Step A: (4S)-1-(tert-Butyloxycarbonyl)-4-(p-nitrobenzoyloxy)-L-Proline tert-Butyl Ester
To a solution of (4R)-1-(tert-butyloxycarbonyl)-4-hydroxy-L-proline (500 mg, 1.74 mmol) in benzene (20 mL) were added triphenylphosphine (548 mg, 2.09 mmol), p-nitrobenzoic acid (349 mg, 2.09 mmol), and diethyl azodicarboxylate (364 mg, 2.09 mmol). The reaction mixture was stirred for 1 hour at 80° C. and then evaporated. Flash silica gel chromatography eluting with 0.5% methanol/dichloromethane gave the desired product in 77% yield (581 mg). 400 MHz 1H NMR (CDCl3): δ1.38-1.47 (3s, 18H); 2.37 (m, 1H); 2.49-2.61 (m, 1H); 5.53 (m, 1H); 8.16-8.27 (m, 4H, Ar).

reactant | (4R)-1-(tert-butyloxycarbonyl)-4-hydroxy-L-proline | 1.74 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C10H17NO5
reactant | triphenylphosphine | 2.09 mmol, 548 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-nitrobenzoic acid | 2.09 mmol, 349 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | diethyl azodicarboxylate | 2.09 mmol, 364 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | (4S)-1-(tert-Butyloxycarbonyl)-4-(p-nitrobenzoyloxy)-L-Proline tert-Butyl Ester | 77% yield | C(C)(C)(C)OC([C@H]1N(C[C@H](C1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)OC(C)(C)C)=O | C21H28N2O8
